US07737149B2
A solution of ethyl 4-(1,4-diazepan-1-yl)benzoate (0.621 g, 2.5 mmol), acetaldehyde (0.701 mL, 12.50 mmol) and acetic acid (0.286 mL, 5.00 mmol) in tetrahydrofuran (30 mL), methanol (3 mL) was treated with sodium cyanoborohydride (0.393 g, 6.25 mmol) at 20° C. The resulting solution was stirred at 60° C. for 18 h. The reaction mixture was cooled and extra amount of acetaldehyde (2.146 mL, 38 mmol) and sodium triacetoxyborohydride (1.060 g, 5.00 mmol) were added. The reaction was stirred at room temperature for 18 h. The reaction mixture was filtered and evaporated to dryness. The residue was dissolved in 2N HCl (5 ml) and methanol (20 ml). The solution of crude product was purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH and pure fractions were evaporated to dryness to afford ethyl 4-(4-ethyl-1,4-diazepan-1-yl)benzoate (0.526 g, 76%)

reactant | ethyl 4-(1,4-diazepan-1-yl)benzoate | 2.5 mmol, 0.621 g | N1(CCNCCC1)C1=CC=C(C(=O)OCC)C=C1 | C14H20N2O2
reactant | acetaldehyde | 12.50 mmol, 0.701 mL | C(C)=O | C2H4O
reactant | acetic acid | 5.00 mmol, 0.286 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 6.25 mmol, 0.393 g | C(#N)[BH3-].[Na+]
reactant | acetaldehyde | 38 mmol, 2.146 mL | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 5.00 mmol, 1.060 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
product | ethyl 4-(4-ethyl-1,4-diazepan-1-yl)benzoate | 0.526 g, 76% | C(C)N1CCN(CCC1)C1=CC=C(C(=O)OCC)C=C1 | C16H24N2O2
